US04431653
4-(2-Bromoethyl)-1-piperidinecarboxaldehyde (47 g, 0.213 M) and NaCN (24 g) in ethanol (470 ml) was refluxed for 4 hours. Solvent was removed, added water (30 ml) and extracted with methylene chloride (4×200 ml). The extracts, dried over NaSO4, were stripped to dryness and then purified on silica gel columns eluted with ethyl acetate to give 4-(2-cyanoethyl-1-piperidinecarboxaldehyde (16 g, 50% yield).

reactant | 4-(2-Bromoethyl)-1-piperidinecarboxaldehyde | 0.213 M, 47 g | BrCCC1CCN(CC1)C=O | C8H14BrNO
reactant | NaCN | 24 g | [C-]#N.[Na+]
reactant | ethanol | 470 ml | C(C)O | C2H6O
product | 2-cyanoethyl-1-piperidinecarboxaldehyde | 16 g, 50% yield | C(#N)CCC1N(CCCC1)C=O | C9H14N2O
